US04499097
1-[5-Methyl-2-(4-pyridinyl)-1H-imidazol-4-yl]ethanone
A mixture of 6.5 g (0.05 mole) of 2,3,4-pentanetrione 3-oxime and 6.0 g (0.055mole) of 4-pyridylmethylamine in 75 ml of N,N-dimethylformamide was stirred at the reflux temperature for 4 hours. The solvent was removed in vacuo and 100 ml of acetonitrile was added to the residual oil. The mixture was boiled then was cooled at -10° C. to yield precipitate. The precipitate was collected, washed with 50 ml of cold acetonitrile and air dried. The material was recrystallized from 150 ml of boiling acetonitrile after treatment with activated charcoal and filtration by cooling at -10° C. The product of the Example was collected by filtration, washed with 50 ml of cold acetonitrile and dried to give 4.0 g of a tan solid, mp 181°-183° C.

reactant | 2,3,4-pentanetrione 3-oxime | 0.05 mole, 6.5 g | CC(C(C(C)=O)=NO)=O | C5H7NO3
reactant | 4-pyridylmethylamine | 0.055mole, 6.0 g | N1=CC=C(C=C1)CN | C6H8N2
solvent | N,N-dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | 1-[5-Methyl-2-(4-pyridinyl)-1H-imidazol-4-yl]ethanone | 4.0 g | CC1=C(N=C(N1)C1=CC=NC=C1)C(C)=O | C11H11N3O
